US04233057
a. formation of 5-(1-phenoxyethyl)-2-amino-1,3,4-thiadiazole
A 1,000 milliliter, 3-neck flask equipped with a Claisen adaptor, paddle stirrer, thermometer, addition funnel and condenser, was charged with 100 grams (0.602 moles) of 2-phenoxypropanoic acid, (54.8 grams, 0.602 mole) of thiosemicarbazide and 300 ml. of dioxane. The slurry was heated to 85° C. and the addition funnel was charged with phosphorous oxychloride (POCl3). The POCl3 was slowly added (for 70 minutes) while maintaining the temperature within 90°-95° C., and then stirred for an additional 20 minutes. It was refluxed for 105 minutes and cooled. The flask was evacuated by using a water aspirator to remove volatiles (HCl, POCl3 and some dioxane), leaving a viscous residue to which 400 ml of water was added and the residue emulsified. A 50 percent solution of NaOH was added until the pH of the solution was 10, and a solid precipitate formed. The solid precipitate was filtered off, washed with water, air dried, then dried in a vacuum oven at 60° C. to a granular grey solid which was recrystallized from H2O/ethanol mixture, filtered and then dried in a vacuum oven at 60° C. to white needles of 5-(1-phenoxyethyl)-2-amino- 1,3,4-thiadiazole. (Melting point 157°-167° C.).

reactant | 2-phenoxypropanoic acid | 0.602 moles, 100 grams | O(C1=CC=CC=C1)C(C(=O)O)C | C9H10O3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(1-phenoxyethyl)-2-amino-1,3,4-thiadiazole | O(C1=CC=CC=C1)C(C)C1=NN=C(S1)N | C10H11N3OS
